US09085555B2
B. (2S,4S)-4-[Methyl-(2,2,2-trichloro-ethoxycarbonyl)-amino]-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester
To a solution of (2S,4S)-4-(2,2,2-trichloro-ethoxycarbonylamino)-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester (420 mg, 1 mmol) and methyl iodide (0.18 mL, 3 mmol) in DMF (10 mL) cooled at 0° C. under argon was added sodium hydride (44 mg, 1.1 mmol). The reaction mixture was stirred at RT for 2 h then was poured into water. The desired compound was extracted with EtOAc (2×25 mL), the organic phases were joined, washed with 1N HCl then brine, dried over Na2SO4, filtered and concentrated. The crude residue was purified by flash column chromatography on silica gel (c-hexane to c-hexane/EtOAc 1:1). MS (UPLC): 436 [M+H]+, 434 [M−H]−; tR (HPLC conditions f): 2.35 min.

reactant | (2S,4S)-4-(2,2,2-trichloro-ethoxycarbonylamino)-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester | 1 mmol, 420 mg | COC(=O)[C@H]1N(C[C@H](C1)NC(=O)OCC(Cl)(Cl)Cl)C(=O)OC(C)(C)C | C14H21Cl3N2O6
reactant | methyl iodide | 3 mmol, 0.18 mL | CI | CH3I
reactant | sodium hydride | 1.1 mmol, 44 mg | [H-].[Na+]
reactant | water | O | H2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | (2S,4S)-4-[Methyl-(2,2,2-trichloro-ethoxycarbonyl)-amino]-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester | COC(=O)[C@H]1N(C[C@H](C1)N(C(=O)OCC(Cl)(Cl)Cl)C)C(=O)OC(C)(C)C | C15H23Cl3N2O6
